US03951989
A mixture of 3.7 parts of ethyl 2-amino-5-methylthiophene-3-carboxylate and 4.4 parts of diethyl ethoxymethylenemalonate is heated at 110°C for 1.5 hour. After cooling ethanol is added and the crystals are collected by filtration, whereby diethyl (3-ethoxycarbonyl-5-methylthienyl)aminomethylenemalonate is obtained as crystals. Recrystallization from ethanol gives pale yellow needles melting at 67°-68°C.

reactant | ethyl 2-amino-5-methylthiophene-3-carboxylate | NC=1SC(=CC1C(=O)OCC)C | C8H11NO2S
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | C(C)O | C2H6O
product | diethyl (3-ethoxycarbonyl-5-methylthienyl)aminomethylenemalonate | C(C)OC(=O)C1=C(SC(=C1)C)NC=C(C(=O)OCC)C(=O)OCC | C16H21NO6S
